US04198406
(b) 7-(Thien-2-ylacetamido)-3-(carbamoylmethyl-1,3,4-thiadiazol-5-ylthio) methylceph-3-em-4-carboxylic acid
Sodium cephalothin (1.05 g, 2.5 mmole) and 5-mercapto-1,3,4-thiadiazol-2-yl-acetamide (0.48 g, 2.75 mmole) were reacted together as described in example 1b. The reaction mixture was poured onto ice, washed with ethyl acetate, covered with ethyl acetate and acidified. The product precipitated as a pale yellow solid, this was filtered off, washed with water and ethyl acetate and dried, 0.87 g, (68.1%); t.l.c. (SiO2 ; B.A.W.; 12:3:5) Rf=0.41; νmax (95% ethanol) 276 nm (ε=12300); δ[(CD3)2SO] 3.85 (2H,s, C2 methylene), 3.95 (2H,s, --CH2CONH--), 4.19 (2H,s, --CH2CONH2), 4.41 and 4.67 (2H, AB quartet, J 14 Hz, --CH2S--), 5.22 (1H,d, J 5 Hz, C6 proton), 5.90 (1H,dd, J 5 and 8 Hz, C7 proton), 6.8-8.1 (6H,m, --CO2H, --CONH2 and thienyl protons), 8.85 (1H,d, J 8 Hz, --CONH--).

reactant | Sodium cephalothin | 2.5 mmole, 1.05 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)[O-].[Na+]
reactant | 5-mercapto-1,3,4-thiadiazol-2-yl-acetamide | 2.75 mmole, 0.48 g | SC1=NN=C(S1)CC(=O)N | C4H5N3OS2
product | 7-(Thien-2-ylacetamido)-3-(carbamoylmethyl-1,3,4-thiadiazol-5-ylthio) methylceph-3-em-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)CC(N)=O)C(=O)O)C1=O | C18H17N5O5S4
